US09359359B2
To a solution of 7-allyl-8-chloro-3-ethyl-1H-purine-2,6(3H,7H)-dione (6.8 g, 26.77 mmol) in DMF (50 mL) was added (3-bromopropoxy)(tert-butyl)dimethylsilane (8 g, 31.75 mmol), followed by potassium carbonate (5 g, 36.23 mmol) and TBAI (5 mg, 0.014 mmol). The reaction was stirred at 60° C. overnight. The reaction was cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, and concentrated to give a crude product which was purified by silica gel chromatography eluting with petroleum/ethyl acetate (15:1 to 1:1) to give 7-allyl-1-(3-(tert-butyldimethylsilyloxy)propyl)-8-chloro-3-ethyl-1H-purine-2,6(3H,7H)-dione (5.88 g, 51.6% yield) as a colorless oil. LCMS retention time 2.224 min; LCMS MH+ 427.

reactant | 7-allyl-8-chloro-3-ethyl-1H-purine-2,6(3H,7H)-dione | 26.77 mmol, 6.8 g | C(C=C)N1C(=NC=2N(C(NC(C12)=O)=O)CC)Cl | C10H11ClN4O2
reactant | (3-bromopropoxy)(tert-butyl)dimethylsilane | 31.75 mmol, 8 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | potassium carbonate | 36.23 mmol, 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | TBAI | 0.014 mmol, 5 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | 7-allyl-1-(3-(tert-butyldimethylsilyloxy)propyl)-8-chloro-3-ethyl-1H-purine-2,6(3H,7H)-dione | 5.88 g, 51.6% yield | C(C=C)N1C(=NC=2N(C(N(C(C12)=O)CCCO[Si](C)(C)C(C)(C)C)=O)CC)Cl | C19H31ClN4O3Si
